US04360531
Spiro[7-oxabicyclo[4.1.0]heptane-3,2'-[1,4]dioxolane] was reacted with methyl(phenylmethyl)amine in the presence of water at 90° C. to give a 92% yield of trans-7-[methyl(phenylmethyl)amino[-1,4-dioxaspiro[4.5]decan-8-ol, bp 158°-161° C. (0.005 mm Hg). This amino alcohol was reacted with methanesulfonylchloride in the presence of triethylamine in methylene chloride solution at 0° C., and the resulting sulfonate ester was reacted with pyrrolidine in the presence of water at 90° C. to give a mixture of diamines, which were debenzylated by hydrogenation using a palladium on carbon catalyst to give a mixture (approximately 1:1 by nmr) of the subtitled diamines. The yield is 74% from the starting amino alcohol.

reactant | Spiro[7-oxabicyclo[4.1.0]heptane-3,2'-[1,4]dioxolane] | O1C2(COC1)CC1OC1CC2 | C8H12O3
reactant | methyl(phenylmethyl)amine | CNCC1=CC=CC=C1 | C8H11N
reactant | water | O | H2O
product | 1,4-dioxaspiro[4.5]decan-8-ol | O1CCOC12CCC(CC2)O | C8H14O3
